US05932571
According to the procedure of Tet. Let. 35, 5997-6000 (1994), combine 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (10 mmol) and di-t-butyl dicarbonate (10 mmol) in tetrahydrofuran (100 mmol). After 18 hours, evaporate in vacuo to give 1-t-butoxycarbonyl-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane. Combine 1-t-butoxycarbonyl-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (0.66 g, 1.84 mmol) and 1,1'-(azodicarbonyl)dipiperidine (0.50 g, 2 mmol) in toluene (20 mL). Add tributylphosphine (0.5 mL, 2 mmol). After 10 minutes, add 2,2,2-trifluoroethanol (0.7 mL, 10 mmol). Heat to 55° C. After 6 hours, cool to ambient temperature. After 18 hours, concentrate the reaction mixture to give a residue. Chromatograph the residue on silica gel eluting sequentially with hexane and then 30% ethyl acetate/hexane to give 1-t- butoxycarbonyl-4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane.

reactant | 1-t-butoxycarbonyl-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 1.84 mmol, 0.66 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO)C=CC=C2 | C19H28N4O3
reactant | 1,1'-(azodicarbonyl)dipiperidine | 2 mmol, 0.50 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 2 mmol, 0.5 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2,2,2-trifluoroethanol | 10 mmol, 0.7 mL | FC(CO)(F)F | C2H3F3O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | hexane | CCCCCC | C6H14
product | 1-t- butoxycarbonyl-4-(1-(2-(2,2,2-trifluoroethoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCC(F)(F)F)C=CC=C2 | C21H29F3N4O3
